US07384930B2
(S)-9-((1H-Imidazol-2-yl)methyl)-4-chloro-7-(2-oxo-2-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidin-1-yl)ethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
(S)-Methyl 2-(9-((1H-imidazol-2-yl)methyl)-4-chloro-8-oxo-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate (58 mg, 0.15 mmol) was dissolved in a mixture containing methanol (2 mL), tetrahydrofuran (2 mL), and water (2 mL). Lithium hydroxide monohydrate (20 mg, 0.48 mmol) was added to the mixture. Reaction stirred at room temperature for 15 hours. Reaction was quenched with 1N hydrochloric acid (0.5 mL). Mixture was concentrated in vacuo. Residue was dissolved in DMF (2 mL). N,N-Diisopropylethylamine was added to the mixture followed by o-Benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium Tetrafluoroborate (60 mg, 0.19 mmol). Mixture stirred at room temperature for 30 minutes. 4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl) piperidine hydrochloride (50 mg, 0.19 mmol) was added to the mixture. Reaction stirred at room temperature for 3 hours. Reaction mixture was purified by preparatory HPLC. Desired fractions were identified. Acetonitrile was removed from the fractions in vacuo. Remaining aqueous was made basic with sodium bicarbonate. Mixture was extracted twice with ethyl acetate. Combined extracts were dried (magnesium sulfate), filtered and concentrated in vacuo. Title compound was obtained as white solid in 28% yield. MS m/e (M+H)+=587.2. 1H NMR (500 MHz, DMSO-D6): δ=13.46 (s, 1H), 11.75 (s, 1H), 9.20 (s, 1H), 8.14 (s, 1H), 7.19 (s, 1H), 7.12 (m, 2H), 6.84 (m, 2H), 6.77 (d, J=7.93, 1H), 5.23 (d, J=15.16, 1H), 4.76 (m, 1H), 4.69 (dd, J1=15.26, J2=5.19, 1H), 4.53 (d, J=13.43, 1H), 4.47 (d, J=15.26, 1H), 4.40 (m, 1H), 4.29 (d, J=3.97, 2H), 4.08 (m, 1H), 3.89 (d, J=9.77, 1H), 3.15 (m, 2H), 3.00 (m, 1H), 2.91 (m, 3H), 2.60 (m, 1H) 2.44 (m, 2H), 1.80 (m, 1H), 1.60 (m, 3H).

reactant | (S)-Methyl 2-(9-((1H-imidazol-2-yl)methyl)-4-chloro-8-oxo-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate | 0.15 mmol, 58 mg | N1C(=NC=C1)CN1CC=2C=3C=NNC3C(=CC2C[C@H](C1=O)CC(=O)OC)Cl | C18H18ClN5O3
reactant | Lithium hydroxide monohydrate | 0.48 mmol, 20 mg | O.[OH-].[Li+]
reactant | o-Benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium Tetrafluoroborate | 0.19 mmol, 60 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1
reactant | 4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl) piperidine hydrochloride | 0.19 mmol, 50 mg | Cl.O=C1NC2=CC=CC=C2CN1C1CCNCC1
solvent | water | 2 mL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | (S)-9-((1H-Imidazol-2-yl)methyl)-4-chloro-7-(2-oxo-2-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidin-1-yl)ethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 28% yield | N1C(=NC=C1)CN1CC=2C=3C=NNC3C(=CC2C[C@H](C1=O)CC(N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O)Cl | C30H31ClN8O3
